US05753679
0.207 g (0.0006 mol) of 1-(3-nitro-benzyl)-piperidin-4-yl benzoate was dissolved in 12 ml of ethanol and treated with 0.12 g of Raney-nickel. The mixture was hydrogenated at room temperature and under normal pressure for 8 hrs. The catalyst was filtered off and, after concentration, the residue was chromatographed on silica gel with ethyl acetate/hexane (1:1) as the eluent. 0.097 g (52%) of 1-(3-amino-benzyl)-piperidin-4-yl benzoate was obtained as yellowish crystals; m.p. 95°-97°.

reactant | 1-(3-nitro-benzyl)-piperidin-4-yl benzoate | 0.0006 mol, 0.207 g | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=CC(=CC=C1)[N+](=O)[O-] | C19H20N2O4
solvent | ethanol | 12 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 0.12 g | [Ni] | Ni
product | 1-(3-amino-benzyl)-piperidin-4-yl benzoate | 0.097 g, 52% | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=CC(=CC=C1)N | C19H22N2O2
